US07759376B2
Intermediate IV-3: N-(4-bromophenyl)-6-chloro-1,3-benzothiazol-2-amine
A mixture of 2,6-dichlorobenzothiazole (0.71 g, 3.5 mmol) and 4-bromoaniline (0.61 g, 3.5 mmol) in n-butanol (6 mL) was heated at 60-70° C. under nitrogen to obtain a solution, to which 4 M HCl in dioxane (0.43 mL, 1.73 mmol) was then slowly added dropwise. The reaction mixture was then heated at 90° C. for 18 h. Upon cooling to rt, the reaction mixture was concentrated under reduced pressure. The resulting solid was triturated with ethanol and collected by filtration. This yielded 1.09 g (93%) of the title compound. LC/MS m/z 339 (MH+); retention time 3.98 min. 1H NMR (CD3OD) δ 7.31 (d, 1H), 7.42-7.58 (m, 5H), 7.61 (d, 1H).

reactant | 2,6-dichlorobenzothiazole | 3.5 mmol, 0.71 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | 4-bromoaniline | 3.5 mmol, 0.61 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 1.73 mmol, 0.43 mL | O1CCOCC1 | C4H8O2
solvent | n-butanol | 6 mL | C(CCC)O | C4H10O
product | N-(4-bromophenyl)-6-chloro-1,3-benzothiazol-2-amine | BrC1=CC=C(C=C1)NC=1SC2=C(N1)C=CC(=C2)Cl | C13H8BrClN2S
